US04797409
1-Hydroxy-4-methyl-6-[3-(1-naphthylmethoxy)phenylthiomethyl]-2-pyridone 26 g of monothioresorcinol and 31.8 g of 6-chloromethyl-4-methyl-2-pyrone were dissolved in 100 ml of dimethylformamide and, while stirring and cooling in ice, 38 g of powdered potassium carbonate were added within 30 minutes, then the mixture was stirred at 0° C. for 4 hours and at room temperature for 16 hours, then 300 ml of methylene chloride were added, and the organic phase was extracted by shaking three times with water, separated off and dried, and the solvent was removed by distillation. The residue was recrystallized from methanol, and 44 g of 6-(3-hydroxyphenylthiomethyl)-4-methyl-2-pyrone, compound (C) of melting point 129 ° C., were obtained. 8.9 g of 1-chloromethylnaphthalene were added to a solution of 8 g of sodium iodide in 200 ml of acetone, the mixture was stirred at room temperature for 16 hours, and then 12.4 g of compound C were dissolved in the mixture, which was cooled to 0° C. and 6.9 g of powdered potassium carbonate were added in portions within 5 hours. After a total reaction time of 79 hours at 0° C., the solvent was removed by distillation under waterpump vacuum, the residue was taken up in methylene chloride, and the solution was washed with water, separated off, dried and concentrated, and the product as chromatographed on a column containing silica gel and using methylene chloride as mobile phase, and the main fractions were recrystallized from methanol. 9 g of pure 4-methyl-6-[3-(1-naphthylmethoxy)phenylthiomethyl]-2-pyrone of melting point 139° C. were obtained.

reactant | 1-Hydroxy-4-methyl-6-[3-(1-naphthylmethoxy)phenylthiomethyl]-2-pyridone | 26 g | ON1C(C=C(C=C1CSC1=CC(=CC=C1)OCC1=CC=CC2=CC=CC=C12)C)=O | C24H21NO3S
reactant | 6-chloromethyl-4-methyl-2-pyrone | 31.8 g | ClCC1=CC(=CC(O1)=O)C | C7H7ClO2
reactant | potassium carbonate | 38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloromethylnaphthalene | 8.9 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | sodium iodide | 8 g | [I-].[Na+]
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-6-[3-(1-naphthylmethoxy)phenylthiomethyl]-2-pyrone | 9 g | CC1=CC(OC(=C1)CSC1=CC(=CC=C1)OCC1=CC=CC2=CC=CC=C12)=O | C24H20O3S
